US07342014B2
2-Chloro-N-(5-chloropyridin-2-yl)acetamide hydrochloride
2-Amino-5-chloropyridine (3.85 g) was dissolved in ethyl acetate (60 ml), and chloroacetyl chloride (2.39 ml) was added at room temperature to stir the mixture for 1 hour. After the reaction mixture was heated and stirred at 60° C. for 30 minutes, chloroacetyl chloride (0.5 ml) was additionally added, and the mixture was stirred at 60° C. for additional 1 hour. Powder deposited was collected by filtration to obtain the title compound (6.18 g).

reactant | 2-Amino-5-chloropyridine | 3.85 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | chloroacetyl chloride | 2.39 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | chloroacetyl chloride | 0.5 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-N-(5-chloropyridin-2-yl)acetamide hydrochloride | 6.18 g | Cl.ClCC(=O)NC1=NC=C(C=C1)Cl | InChI=1S/C7H6Cl2N2O.ClH/c8-3-7(12)11-6-2-1-5(9)4-10-6;/h1-2,4H,3H2,(H,10,11,12);1H
